US04705866
A mixture of 2,4,6-trichloroaniline (1.20g, 6.11 mmol), maleic anhydride (0.80g, 8.2 mmol) and tin(II) chloride (0.068g, 0.36 mmol) is heated to 140° C. with mixing and held at this temperature for 2.0 hours. The reaction mixture is cooled, extracted with xylene, filtered and the resulting filtrate water washed. Solvent removal yielded N-(2,4,6-trichlorophenyl)maleimide. HPLC analysis showed conversion of 2,4,6-trichloroaniline was 96.4% and selectivity to N-(2,4,6-trichlorophenyl)maleimide based on reacted 2,4,6-trichloroaniline was 88.0%.

reactant | 2,4,6-trichloroaniline | 6.11 mmol, 1.20g | ClC1=C(N)C(=CC(=C1)Cl)Cl | C6H4Cl3N
reactant | maleic anhydride | 8.2 mmol, 0.80g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | tin(II) chloride | 0.36 mmol, 0.068g | [Sn](Cl)Cl
product | N-(2,4,6-trichlorophenyl)maleimide | ClC1=C(C(=CC(=C1)Cl)Cl)N1C(C=CC1=O)=O | C10H4Cl3NO2
